US06387672B1
Preparation of N-benzyl-N′-pyren-1-ylmethyl-hexane-1.6-diamine
A solution of N-benzyl-N′-pyren-1-ylmethylene-hexane-1,6-diamine (420 mg, 1.00 mmol) and sodium borohydride (190 mg, 5.00 mmol) in methanol (10.0 ml) was stirred at room temperature for 3 hours under a nitrogen atmosphere. The solvent was removed under vacuum, and the residue was dissolved in chloroform and washed with water, and dried over magnesium sulphate. The solvent was removed and the residue was dried under vacuum to give a yellow oil (386/mg, 92%). 1H NMR (CDCl3) δ/ppm 1.32 (4H, m, (CH2)2), 1.45 (2H, m, BnNCCH2), 1.55 (2H, m, PyCNCCH2), 2.55 (2H, t, BnNCH2), 2.75 (2H, t, PyCNCH2), 3.75 (2H, s, PhCH2), 4.50 (2H, s, PyCH2), 7.15-7.25 (5H, m, Ph-H), 7.95-8.10, 8.15-8.22, 8.37 (4H, 4H, 1H respectively, m, m, d, Py-H). 13C NMR (CDCl3) δ/ppm 27.35, 30.16, 49.46, 50.02, 51.94, 54.13, 54.13, 123.19, 124.72, 125.00, 125.09, 125.89, 126.89, 127.03, 127.50, 127.64, 128.14, 128.40, 129.06, 131.34, 134.15; m/z (EI) 420 ([M])+, 7%).

reactant | N-benzyl-N′-pyren-1-ylmethylene-hexane-1,6-diamine | 1.00 mmol, 420 mg | C(C1=CC=CC=C1)NCCCCCCN=CC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C30H30N2
reactant | sodium borohydride | 5.00 mmol, 190 mg | [BH4-].[Na+]
reactant | Ph-H | C1=CC=CC=C1 | C6H6
solvent | methanol | 10.0 ml | CO | CH4O
product | N-benzyl-N′-pyren-1-ylmethyl-hexane-1.6-diamine | C(C1=CC=CC=C1)NCCCCCCNCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C30H32N2
